US04382143
Preparation of 4-hexadecylamino-2-thiophenecarbonyl chloride hydrochloride
A cold solution of 25 g. of 4-hexadecylamino-2-thiophenecarboxylic acid in 500 ml. of 1,2-dimethoxyethane-methylene chloride (4:1) is prepared and dry hydrochloric acid is bubbled through the solution until no more precipitate forms. The solution is treated with 25 ml. thionyl chloride and refluxed until all of the precipitate has dissolved. The solvents are evaporated to yield the product as an orange semi-crystalline mass.

reactant | 4-hexadecylamino-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)O | C21H37NO2S
reactant | 1,2-dimethoxyethane methylene chloride | COCCOC.C(Cl)Cl
product | 4-hexadecylamino-2-thiophenecarbonyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)Cl | InChI=1S/C21H36ClNOS.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-23-19-17-20(21(22)24)25-18-19;/h17-18,23H,2-16H2,1H3;1H
